US07166599B2
b) 2-methylsulphinyl-4-methylamino-5-methyl-pyrimidine
Prepared from 2-methylsulphenyl-4-methylamino-5-methyl-pyrimidine by reacting with 3-chloro-peroxybenzoic acid in methylene chloride, Rf value: 0.23 (silica gel; methylene chloride/methanol/ conc. aqueous ammonia=20:1:0.1)

reactant | 2-methylsulphenyl-4-methylamino-5-methyl-pyrimidine | CSC1=NC=C(C(=N1)NC)C | C7H11N3S
reactant | 3-chloro-peroxybenzoic acid | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | methylene chloride methanol | C(Cl)Cl.CO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-methylsulphinyl-4-methylamino-5-methyl-pyrimidine | CS(=O)C1=NC=C(C(=N1)NC)C | C7H11N3OS
